US03987185
To a stirred solution of 0.65 g. (11.5 mM) of potassium hydroxide in 23 ml. of ethanol is added 2.07 g. (11.5 mM) of 6-methoxyphthalaldehydic acid. To the resulting cooled (10°) milky suspension is added 1.89 g. (11.75 mM) of 2-phenyl-5-oxazolone. The mixture is warmed to 25° and stirred at this temperature for 35 minutes. A light orange precipitate forms. The mixture is made acidic with 3.45 ml. of 4N sulfuric acid and the resulting mixture kept at 0° for 1.5 hours and filtered. The collected solid is washed with a small amount of cold ethanol and then hexane. Air-drying gives the oxazolone 4-(2-carboxy-3-methoxybenzylidene)-2-phenyl-5(4H)-oxazolone as a yellow solid, m.p. > 320°.

reactant | potassium hydroxide | 11.5 mM | [OH-].[K+]
reactant | 6-methoxyphthalaldehydic acid | 11.5 mM | COC=1C=CC=C(C1C(=O)O)C=O | C9H8O4
reactant | 2-phenyl-5-oxazolone | 11.75 mM | C1(=CC=CC=C1)C1OC(C=N1)=O | C9H7NO2
reactant | sulfuric acid | 4N | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
product | oxazolone 4-(2-carboxy-3-methoxybenzylidene)-2-phenyl-5(4H)-oxazolone | C(=O)(O)C1=C(C=C2N=C(OC2=O)C2=CC=CC=C2)C=CC=C1OC.O1C(NC=C1)=O | InChI=1S/C18H13NO5.C3H3NO2/c1-23-14-9-5-8-12(15(14)17(20)21)10-13-18(22)24-16(19-13)11-6-3-2-4-7-11;5-3-4-1-2-6-3/h2-10H,1H3,(H,20,21);1-2H,(H,4,5)
